US09061998B2
Intermediate 26: 1-(4-Bromophenyl)piperidin-3-ol
A solution of 1-bromo-4-iodobenzene (Aldrich, 4 g, 14.14 mmol), piperidin-3-ol (Aldrich, 1.14 g, 11.31 mmol), copper (I) iodide (0.269 g, 1.41 mmol) and K3PO4 (6.00 g, 28.3 mmol) in N,N-dimethylformamide (50 mL) under N2 were stirred at 100° C. for 48 h. The reaction mixture was poured into ice and extracted with ethyl acetate. The organic layer was washed successively with water and brine then dried over anhydrous Na2SO4, filtered through celite and concentrated under reduced pressure. The sample was purified on silica gel column chromatography using a cyclohexane to cyclohexane/ethyl acetate 70:30 as eluant. The appropriate fractions were combined and concentrated in vacuo and the residue was triturated with pentane. The resulting solid was filtered, washed with pentane and dried to give the title compound 1-(4-bromophenyl) piperidin-3-ol as a beige powder. LCMS: (M+H)+=256-258; Rt=2.90 min.

reactant | 1-bromo-4-iodobenzene | 14.14 mmol, 4 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | piperidin-3-ol | 11.31 mmol, 1.14 g | N1CC(CCC1)O | C5H11NO
reactant | K3PO4 | 28.3 mmol, 6.00 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 1.41 mmol, 0.269 g | [Cu]I
product | 1-(4-bromophenyl) piperidin-3-ol | BrC1=CC=C(C=C1)N1CC(CCC1)O | C11H14BrNO
